US04870183
In 30 ml of N,N-dimethylformamide were suspended 1.8 g of bis(2-fluorobenzyl)acetic acid and 1.9 g of L-histidine methyl ester dihydrochloride, and to the suspension were successively added 1.68 ml of diphenylphosphoryl azide and 2.9 ml of triethylamine with stirring under ice-cooling. The mixture was still stirred for 16 hours. The reaction mixture was evaporated under reduced pressure, and to the residue was added a 5% aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate, and the ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol=1) to obtain 2.0 g of N- bis(2-fluorobenzyl)acetyl-L-histidine methyl ester having an Rf1 value of 0.76 as a white powder.

reactant | bis(2-fluorobenzyl)acetic acid | 1.8 g | FC1=C(CC(C(=O)O)CC2=C(C=CC=C2)F)C=CC=C1 | C16H14F2O2
reactant | L-histidine methyl ester dihydrochloride | 1.9 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | diphenylphosphoryl azide | 1.68 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N- bis(2-fluorobenzyl)acetyl-L-histidine methyl ester | 2.0 g | COC([C@@H](NC(C(CC1=C(C=CC=C1)F)CC1=C(C=CC=C1)F)=O)CC1=CNC=N1)=O | C23H23F2N3O3
